US08183239B2
2-Ethyl-N-{3-fluoro-4-[4-(1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide
To a solution of 2-ethyl-N-{3-fluoro-4-[4-(1-hydroxy-1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide (17 mg, 0.037 mmol) and Et3SiH (0.025 mL) in DCM (0.15 mL) was added TFA (0.25 mL). The mixture was stirred at 25° C. for 0.5 h and purified by PTLC to provide the title compound (9 mg, 55%). MS: 439.4. 1H NMR (CDCl3): 7.40 (dd, J=14.0, 2.5, 1H), 7.32-7.25 (m, 2H), 7.22-7.17 (m, 1H), 7.14-7.06 (m, 3H), 7.02 (s, 1H), 7.06 (t, J=9.2, 1H), 3.47-3.22 (m, 2H), 2.65-2.55 (m, 1H), 2.52-2.43 (m, 1H), 2.38-2.30 (m, 1H), 2.03 (m, 2H), 1.88-1.15 (m, 12H), 1.10-0.98 (m, 2H), 0.92 (t, J=7.4, 6H), 0.81 (t, J=7.3, 3H).

reactant | 2-ethyl-N-{3-fluoro-4-[4-(1-hydroxy-1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide | 0.037 mmol, 17 mg | C(C)C(C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)C(CCCC)(C1=CC=CC=C1)O)F)CC | C28H39FN2O2
reactant | Et3SiH | 0.025 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.15 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-N-{3-fluoro-4-[4-(1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide | 9 mg, 55% | C(C)C(C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)C(CCCC)C1=CC=CC=C1)F)CC | C28H39FN2O
